US08426447B2
To a suspension of 8-bromo-2-chloro-10H-chromeno[3,2-b]pyridin-10-one (20 g, 64.4 mmol) in 500 mL of THF at −78° C. was added dropwise methylmagnesium bromide 3.0 M in diethyl ether (13.82 mL, 116 mmol). The reaction was allowed to slowly warmed up to 0° C. in about 2 h. The reaction was quenched with NH4Cl solution, extracted with EtOAc, dried over Na2SO4, filtered and evaporated to give the corresponding crude tertiary alcohol. This solid residue was re-dissolved in 100 mL of THF and treated with mL of chloroform and the resulting solution was evaporated on a 75° C. water bath for 10 min to give crude 8-bromo-2-chloro-10-methylene-10H-chromeno[3,2-b]pyridine as a brownish solid.

reactant | 8-bromo-2-chloro-10H-chromeno[3,2-b]pyridin-10-one | 64.4 mmol, 20 g | BrC1=CC=2C(C3=NC(=CC=C3OC2C=C1)Cl)=O | C12H5BrClNO2
reactant | methylmagnesium bromide | 3.0 M | C[Mg]Br
reactant | diethyl ether | 116 mmol, 13.82 mL | C(C)OCC | C4H10O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 8-bromo-2-chloro-10-methylene-10H-chromeno[3,2-b]pyridine | BrC1=CC=2C(C3=NC(=CC=C3OC2C=C1)Cl)=C | C13H7BrClNO
